US04076526
Copoly(N-Vinyl Carbazole-Vinyl 3,5-Dinitrobenzoate)
Copoly(N-vinyl carbazole-Vinyl alcohol) (II) (2.0 g) was dissolved in 50 ml of anhydrous pyridine. 3,5-Dinitrobenzoyl chloride (3.88 g) in 15 ml of anhydrous benzene was added with stirring to the pyridine solution. The resulting orange solution was stirred at room temperature for 4 hours. The small amount of solid remaining in the reaction mixture was collected on a filter and the filtrate was poured into 400 ml of methanol. The isolated polymer was purified by two precipitations from tetrahydrofuran into methanol to give 3.2 grams of a yellow powder. Nitrogen analysis demonstrated that the reaction of the alcohol groups with the acid chloride was nearly quantitative.

reactant | N-vinyl carbazole Vinyl alcohol | C(=C)N1C2=CC=CC=C2C=2C=CC=CC12.C(=C)O
reactant | 3,5-Dinitrobenzoyl chloride | 3.88 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | N-Vinyl Carbazole Vinyl 3,5-Dinitrobenzoate | 3.2 grams | C(=C)N1C2=CC=CC=C2C=2C=CC=CC12.[N+](=O)([O-])C=1C=C(C(=O)OC=C)C=C(C1)[N+](=O)[O-] | InChI=1S/C14H11N.C9H6N2O6/c1-2-15-13-9-5-3-7-11(13)12-8-4-6-10-14(12)15;1-2-17-9(12)6-3-7(10(13)14)5-8(4-6)11(15)16/h2-10H,1H2;2-5H,1H2
